US06800651B2
N-(3-(4-Cyanophenyl)phenyl)pyrid-3-ylmethylamine
A solution of N-(3-bromophenyl)pyridin-3-ylmethylamine (364 mg, 1.38 mmol), 4-cyanophenylboronic acid (305 mg, 2.08 mmol), sodium carbonate (2.15 ml of a 2M aqueous solution, 4.3 mmol), and tetrakis(triphenylphosphine)palladium(0) (70 mg, 0.061 mmol), under a nitrogen atmosphere was refluxed in dioxane (15 ml) for 6 h, then cooled to room temperature. The mixture was diluted with dichloromethane (70 ml) and water (15 ml). The organics were separated, dried over sodium sulfate, filtered, and concentrated to a brown solid. The solid was purified by radial chromatography eluting with 2 to 4% methanol/dichloromethane to afforded the title compound. MS calcd. 285.3; MS (M+1) 286.3.

reactant | N-(3-bromophenyl)pyridin-3-ylmethylamine | 1.38 mmol, 364 mg | BrC=1C=C(C=CC1)NCC=1C=NC=CC1 | C12H11BrN2
reactant | 4-cyanophenylboronic acid | 2.08 mmol, 305 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | water | 15 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.061 mmol, 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(3-(4-Cyanophenyl)phenyl)pyrid-3-ylmethylamine | C(#N)C1=CC=C(C=C1)C=1C=C(C=CC1)NCC=1C=NC=CC1 | C19H15N3
